US04212711
When the above experiment was repeated using 17.5 grams of sulfuric acid in the electrolyte, there was observed a current yield of 44.0% with a 51.8% selectivity to anisaldehyde. In addition, the current efficiency was 84.9%. Again, when the experiment was repeated using 32 grams of sulfuric acid, the oxidation of p-methoxytoluene resulted in a current yield of 54.1%, a 54.1% selectivity to the aldehyde and a 100% current efficiency.

reactant | sulfuric acid | 17.5 grams | S(O)(O)(=O)=O | H2O4S
reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | sulfuric acid | 32 grams | S(O)(O)(=O)=O | H2O4S
product | p-methoxytoluene | yield of 54.1% | COC1=CC=C(C=C1)C | C8H10O
